US07550467B2
To a solution of 2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (0.10 g, 0.50 mmol) in acetone (2 mL) was added 1-chloro-3-iodo-propane (0.10 g, 0.50 mmol, 1 eq) and K2CO3 (0.084 g, 0.60 mmol, 1.2 eq). The mixture was heated at 50° C. for 3 h and then cooled to r.t. The mixture was filtered through Celite and the filtrate was concentrated in vacuo. Chromatography on silica gel by eluting with 5% MeOH/CH2Cl2 gave 0.095 g (69%) of 5-(3-chloro-propyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester as a yellowish oil. 1H NMR (300 MHz, CDCl3): δ 4.20 (m, 1H), 3.58 (m, 2H), 3.46 (m, 2H), 3.12 (m, 1H), 2.86 (m, 1H), 2.62 (m, 3H), 1.82 (m, 3H), 1.66 (m, 1H), 1.41 (s, 9H).

reactant | 2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.50 mmol, 0.10 g | C(C)(C)(C)OC(=O)N1C2CNC(C1)C2 | C10H18N2O2
reactant | 1-chloro-3-iodo-propane | 0.50 mmol, 0.10 g, 1 eq | ClCCCI | C3H6ClI
reactant | K2CO3 | 0.60 mmol, 0.084 g, 1.2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 5-(3-chloro-propyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.095 g, 69% | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)CCCCl | C13H23ClN2O2
